US08492549B2
(3-{(R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenoxy)acetic acid
To a solution of (R*)-3-{1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol (201 mg, 0.62 mmol) in dry DMF (2 ml) was added NaH (60% in oil, 30 mg, 0.75 mmol) under nitrogen atmosphere and the mixture was stirred at 0° C. for 5 min, then allowed to warm to RT and stirred for further 2.5 h. The reaction mixture was cooled to 0° C., ethyl bromoacetate (106 mg, 0.62 mmol) was added and the mixture was stirred at RT overnight. Potassium tert-butoxide (69 mg, 0.61 mmol) was added and the mixture was stirred for 3 h at RT and filtered. The precipitate was dissolved in dry MeOH, the solution filtered and evaporated to dryness to give 170 mg of the title compound.

reactant | (R*)-3-{1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol | 0.62 mmol, 201 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O | C20H23NO3
reactant | NaH | 0.75 mmol, 30 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.62 mmol, 106 mg | BrCC(=O)OCC | C4H7BrO2
reactant | Potassium tert-butoxide | 0.61 mmol, 69 mg | CC(C)([O-])C.[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (3-{(R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenoxy)acetic acid | 170 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(OCC(=O)O)C=CC2 | C22H25NO5
